US06730792B2
To a solution of 6-fluorochroman-4-one (21.0 g, 126 mmol) in acetic acid (105 ml) is added bromine (6.5 ml, 126 mmol) at such a rate as to not raise the temperature above 25° C. After the addition is complete, the reaction is allowed to stir for 2 hours before pouring into 1 liter of ice. The resulting mixture is stirred over night. The precipitate which formed is filtered and placed in drying oven to produce 21 g of 3-bromo-6-fluorochroman-4-one.

reactant | 6-fluorochroman-4-one | 126 mmol, 21.0 g | FC=1C=C2C(CCOC2=CC1)=O | C9H7FO2
reactant | bromine | 126 mmol, 6.5 ml | BrBr | Br2
solvent | acetic acid | 105 ml | C(C)(=O)O | C2H4O2
product | 3-bromo-6-fluorochroman-4-one | 21 g | BrC1COC2=CC=C(C=C2C1=O)F | C9H6BrFO2
